US07119205B2
2-amino-4-phenylethynyl-thiophene-3-carboxylic acid ethyl ester
2-Amino-4-ethynyl-thiophene-3-carboxylic acid ethyl ester (0.075 g, 0.385 mmol) was dissolved in anhydrous CH3CN (2.0 mL). This was treated with iodobenzene (0.129 mL, 1.15 mmol) followed by diisopropylamine (0.272 mL, 1.92 mmol). The solution was then degassed and treated with copper iodide (0.0018 g, 0.010 mmol) and dichlorobis(triphenylphosphine)palladium(II) (0.014 g, 0.019 mmol). The reaction was then stirred at room temperature for 30 min. The reaction was concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 15 EtOAc/85 hexanes) to afford the title compound (0.081 g, 78%). MS m/e (CI) 272.0 (M+H)+.

reactant | 2-Amino-4-ethynyl-thiophene-3-carboxylic acid ethyl ester | 0.385 mmol, 0.075 g | C(C)OC(=O)C1=C(SC=C1C#C)N | C9H9NO2S
reactant | iodobenzene | 1.15 mmol, 0.129 mL | IC1=CC=CC=C1 | C6H5I
reactant | diisopropylamine | 1.92 mmol, 0.272 mL | C(C)(C)NC(C)C | C6H15N
solvent | CH3CN | 2.0 mL | CC#N | C2H3N
catalyst | copper iodide | 0.010 mmol, 0.0018 g | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.019 mmol, 0.014 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-phenylethynyl-thiophene-3-carboxylic acid ethyl ester | 0.081 g, 78% | C(C)OC(=O)C1=C(SC=C1C#CC1=CC=CC=C1)N | C15H13NO2S
